US05053409
Synthesis of 2-(1-piperazinyl)-5-n-propylbenzenesulfonic acid hydrochloride (Compound No. 110)
To a mixed solution of 200 ml of ethyl alcohol and 185 ml of 1 N hydrochloric acid was added 50.0 g of 2-(1-piperazinyl)-5-n-propylbenzenesulfonic acid and the mixture was dissolved by heating. The mixture was condensed under reduced pressure, and precipitated crystals were washed with acetone and dried to give 51.46 g (yield: 95.4%) of the above title product.

reactant | hydrochloric acid | 1 N, 185 ml | Cl | ClH
reactant | 2-(1-piperazinyl)-5-n-propylbenzenesulfonic acid | 50.0 g | N1(CCNCC1)C1=C(C=C(C=C1)CCC)S(=O)(=O)O | C13H20N2O3S
solvent | ethyl alcohol | 200 ml | C(C)O | C2H6O
product | 2-(1-piperazinyl)-5-n-propylbenzenesulfonic acid hydrochloride | 51.46 g, yield: 95.4% | Cl.N1(CCNCC1)C1=C(C=C(C=C1)CCC)S(=O)(=O)O | InChI=1S/C13H20N2O3S.ClH/c1-2-3-11-4-5-12(13(10-11)19(16,17)18)15-8-6-14-7-9-15;/h4-5,10,14H,2-3,6-9H2,1H3,(H,16,17,18);1H
